US09101141B2
3. Preparation of 2-chloro-N-(5-ethyl-1,3,4-oxadiazol-2-yl)-4-(methylsulfonyl)benzamide (Ex. No. 3-9)
415 mg (1.77 mmol) of 2-chloro-4-(methylsulfonyl)benzenecarboxylic acid and 200 mg (1.77 mmol) of 5-ethyl-1,3,4-oxadiazol-2-amine are dissolved at RT in 9 ml of CH2Cl2. Then 1.68 g (2.64 mmol) of 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (50% solution in THF) are added, the mixture is stirred at RT for one hour and then 0.246 ml (1.77 mmol) of triethylamine, 43 mg (0.35 mmol) of 4-dimethylaminopyridine are added. The reaction mixture is stirred at RT for 48 h and then washed twice with 4 ml each time of water, and purified by column chromatography (prep. HPLC; acetonitrile/water). Yield 41 mg (6%).

reactant | 2-chloro-4-(methylsulfonyl)benzenecarboxylic acid | 1.77 mmol, 415 mg | ClC1=C(C=CC(=C1)S(=O)(=O)C)C(=O)O | C8H7ClO4S
reactant | 5-ethyl-1,3,4-oxadiazol-2-amine | 1.77 mmol, 200 mg | C(C)C1=NN=C(O1)N | C4H7N3O
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 2.64 mmol, 1.68 g | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
reactant | triethylamine | 1.77 mmol, 0.246 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 9 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.35 mmol, 43 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-chloro-N-(5-ethyl-1,3,4-oxadiazol-2-yl)-4-(methylsulfonyl)benzamide | ClC1=C(C(=O)NC=2OC(=NN2)CC)C=CC(=C1)S(=O)(=O)C | C12H12ClN3O4S
